US04101590
This toluene solution was fed into the second extraction tower at a point 3/4 from the top of the tower so that the rate of feed of all phenols was 0.0422 mol./hr., and otherwise, the total reflux operation was performed in the same way as in the case of the first extraction tower described above. The second extraction tower and a reflux zone attached to the tower had quite the same structure as the first extraction tower and the reflux zone atached thereto. After completion of the total reflux operation, the extracting operation was carried out for 5 hours while maintaining the reflux ratio at 52.4. As a result, 1.06 liters of a toluene solution containing 0.199 mol of purified p-vinylphenol of 99.4 mol% p-vinylphenol, 0.39 mol% p-ethylphenol, 0.20 mol% phenol and 0.01 mol% p-tert.-butylphenol was obtained from the top of the second extraction tower.

reactant | p-vinylphenol | 0.199 mol | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | p-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 1.06 liters | C1(=CC=CC=C1)C | C7H8
product | p-tert.-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
